US07179830B2
a) N-(3-Amino-4-thienyl)-N′-(2,6-dichlorophenyl)thiourea
A mixture of 1.87 g of 3,4-diaminothiophene dihydrochloride, 60 ml of anhydrous THF and 2.58 g of N-ethyl-N,N-diisopropylamine was stirred at room temperature for 30 minutes and then admixed with 2.04 g of 2,6-dichlorophenyl isothiocyanate. After the mixture had been heated to 40° C. for 10 minutes, it was stirred at room temperature for approx. 18 hours, and the solvent was distilled off, and the residue admixed with water and extracted repeatedly with ethyl acetate. After the combined organic phases had been treated with activated carbon, they were dried over sodium sulfate and the solvent was again distilled off. A crystalline solid was obtained and, after stirring with a little ethyl acetate, was filtered off. M.p. 165° C.

reactant | 3,4-diaminothiophene dihydrochloride | 1.87 g | Cl.Cl.NC1=CSC=C1N
reactant | THF | 60 ml | C1CCOC1 | C4H8O
reactant | N-ethyl-N,N-diisopropylamine | 2.58 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 2,6-dichlorophenyl isothiocyanate | 2.04 g | ClC1=C(C(=CC=C1)Cl)N=C=S | C7H3Cl2NS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(3-Amino-4-thienyl)-N′-(2,6-dichlorophenyl)thiourea | NC1=CSC=C1NC(=S)NC1=C(C=CC=C1Cl)Cl | C11H9Cl2N3S2
